US05434248
N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-9-phenyl nonanoic acid:
N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-9-phenyl nonanoic acid t-butyl ester (140 mg) was dissolved in a 1:1 mixture of CH2Cl2 /TFA (8 mL). The mixture was stirred at rt for 30 min and the solvent was reduced in vacuo. The residue was recrystilized from acetone/hexane to provide the acid (120 mg, 80%).

reactant | N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-9-phenyl nonanoic acid t-butyl ester | 140 mg | C(C)(C)(C)OC(CC(C(CCCCCC1=CC=CC=C1)=O)NC([C@@H](NC([C@@H](NC([C@@H](NC(C)=O)CC1=CC=C(C=C1)O)=O)C(C)C)=O)C)=O)=O | C38H54N4O8
reactant | acetone hexane | CC(=O)C.CCCCCC
solvent | CH2Cl2 TFA | 8 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | N-(N-AcetylTyrosinyl-Valinyl-Alaninyl)-3-amino-4-oxo-9-phenyl nonanoic acid | 120 mg, 80% | C(C)(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)NC(CC(=O)O)C(CCCCCC1=CC=CC=C1)=O | C34H46N4O8
